US07589206B2
(d) 1-[7-(3-Bromo-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt
A mixture of 7-chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester, 3-bromoaniline (56 μl), and methanesulfonic acid (33 μl) in 1,4-dioxane (2 ml) was heated under microwave conditions at 180° C. for 30 minutes. The solid mass obtained was dissolved in methanol, transferred to a round bottom flask and evaporated. The residue was dissolved in ethyl acetate and washed with 5% sodium hydrogen carbonate solution and water. The organic layer was dried (MgSO4) and evaporated to give an off-white solid. The solid was triturated with diethyl ether, filtered off and sucked dry. The solid was then dissolved in warm ethyl acetate (10 ml) and treated with a solution of 1M hydrochloric acid in diethyl ether (10 drops). The resultant solid precipitate was then filtered off, sucked dry then dried at 40° C. under vacuum to afford the title compound (58 mg).

reactant | 7-chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(=O)N2CCOCC2)Cl)C | C18H22ClN3O4
reactant | 3-bromoaniline | 56 μl | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | methanesulfonic acid | 33 μl | CS(=O)(=O)O | CH4O3S
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 1-[7-(3-Bromo-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt | 58 mg | Cl.BrC=1C=C(C=CC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCOCC2 | InChI=1S/C19H19BrN4O2.ClH/c1-12-10-21-17-16(12)15(19(25)24-5-7-26-8-6-24)11-22-18(17)23-14-4-2-3-13(20)9-14;/h2-4,9-11,21H,5-8H2,1H3,(H,22,23);1H
